US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-phenoxycarbonylaminopentyloxy)phenyl]benzamide (290 mg) in N,N-dimethylformamide (15 ml) was added 1-methylpiperazine (271 mg) at ambient temperature. The reaction mixture was stirred at 80° C. for 10 hours. The reaction mixture was cooled and extracted with ethyl acetate and washed with saturated sodium hydrogen carbonate and brine. The organic solution was dried over sodium sulfate. The solvent was removed by evaporation and subjected to silica gel column chromatography (SiO2; 30 g, 5% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-carbonylamino)pentyloxy]phenyl]benzamide (190 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-phenoxycarbonylaminopentyloxy)phenyl]benzamide | 290 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCNC(=O)OC2=CC=CC=C2)C)C=C1 | C40H39N3O5
reactant | 1-methylpiperazine | 271 mg | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-carbonylamino)pentyloxy]phenyl]benzamide | 190 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCNC(=O)N2CCN(CC2)C)C)C=C1 | C39H45N5O4
